US07737152B2
2-Chloro-6-(quinoline-4-oxy)-pyrazine, CJS 523(A)
Using Method DD with 2,6-dichloropyrazine (250 mg, 1.69 mmol) and 4-hydroxyquinoline (270 mg, 1.49 mmol), and purification by column chromatography (AcOEt cyclohexane, 1:1), the title compound was obtained (60 mg). Yield: 14%. 1H NMR (250 MHz, DMSO-d6) δ 7.45 (d, 1H, Harom 3, J=4.9 Hz), 7.67 (t, 1H, Harom 7, J=7.6 Hz), 7.86 (t, 1H, Harom 6, J=7.8 Hz), 8.12 (d, 2H, Harom 3+5, J=8.7 Hz), 8.67 (s, 1H, HPz 5), 8.82 (s, 1H, HPz 3), 8.94 (d, 1H, Harom 2, J=4.9 Hz). m/z: 258.0 [(M+H)+, calcd for C13H8ClN3O 257.0].

reactant | 2,6-dichloropyrazine | 1.69 mmol, 250 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 4-hydroxyquinoline | 1.49 mmol, 270 mg | OC1=CC=NC2=CC=CC=C12 | C9H7NO
solvent | AcOEt cyclohexane | CCOC(=O)C.C1CCCCC1
product | 2-Chloro-6-(quinoline-4-oxy)-pyrazine | Yield: 14% | ClC1=NC(=CN=C1)OC1=CC=NC2=CC=CC=C12 | C13H8ClN3O
